US08729263B2
To a solution of (S)-6-((S)-1-(tert-butyldimethylsilyloxy)ethyl)-2,2-dimethylpiperidin-4-one (42 mg, 0.15 mmol) in MeOH (3 mL) was added NaBH4 (5.6 mg, 0.15 mmol) at 0° C. After the mixture was stirred for 1 h, the mixture was diluted with water (5 mL) and extracted with EtOAc (20 mL). The extract was washed with brine, dried over Na2SO4, and concentrated in vacuo. Purification by column chromatography (EtOAc/Heptane) gave 32 mg (76%) of (6S)-6-((S)-1-(tert-butyldimethylsilyloxy)ethyl)-2,2-dimethylpiperidin-4-ol (a 5:1 mixture of diastereomers): 1H NMR (400 MHz, CHLOROFORM-d) δ 4.17-4.27 (m, 1H), 3.71-3.78 (m, 1H), 2.92-3.02 (m, 1H), 1.56-1.67 (m, 2H), 1.30-1.37 (m, 2H), 1.25 (s, 3H), 1.07 (d, J=6.1 Hz, 3H), 1.02 (s, 3H), 0.83 (s, 9H), 0.01 (s, 3H), 0.00 (s, 3H).

reactant | (S)-6-((S)-1-(tert-butyldimethylsilyloxy)ethyl)-2,2-dimethylpiperidin-4-one | 0.15 mmol, 42 mg | [Si](C)(C)(C(C)(C)C)O[C@@H](C)[C@@H]1CC(CC(N1)(C)C)=O | C15H31NO2Si
reactant | NaBH4 | 0.15 mmol, 5.6 mg | [BH4-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | (6S)-6-((S)-1-(tert-butyldimethylsilyloxy)ethyl)-2,2-dimethylpiperidin-4-ol | 32 mg, 76% | [Si](C)(C)(C(C)(C)C)O[C@@H](C)[C@@H]1CC(CC(N1)(C)C)O | C15H33NO2Si
